US08563573B2
To a solution of 2-(6-chloro-4-iodopyridin-3-ylamino)ethanol (14.5 g, 49 mmol) in Et3N (200 mL) were added 3,3-dimethyl-but-1-yne (12.0 g, 146 mol), CuI (0.9 g, 4.9 mmol) and Pd(PPh3)Cl2 (3.4 g, 4.9 mmol) under N2 atmosphere. The mixture was refluxed overnight and quenched with H2O (100 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (100 mL×3). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and purified by chromatography on silica gel (3% ethyl acetate in petroleum ether as eluant) to afford 2-(6-chloro-4-(3,3-dimethylbut-1-ynyl)pyridin-3-ylamino)ethanol (3.6 g, 29%). 1H-NMR (CDCl3, 300 MHz) δ 7.74 (s, 1H), 7.11 (s, 1H), 4.77 (br s, 1H), 3.92-3.90 (m, 2H), 3.78-3.36 (m, 2H), 1.34 (s, 9H).

reactant | 2-(6-chloro-4-iodopyridin-3-ylamino)ethanol | 49 mmol, 14.5 g | ClC1=CC(=C(C=N1)NCCO)I | C7H8ClIN2O
reactant | 3,3-dimethyl-but-1-yne | 146 mol, 12.0 g | CC(C#C)(C)C | C6H10
solvent | Et3N | 200 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 4.9 mmol, 0.9 g | [Cu]I
product | 2-(6-chloro-4-(3,3-dimethylbut-1-ynyl)pyridin-3-ylamino)ethanol | 3.6 g, 29% | ClC1=CC(=C(C=N1)NCCO)C#CC(C)(C)C | C13H17ClN2O
